### PR TITLE
[Merged by Bors] - chore(Analysis/Matrix/Order): `IsStrictlyPositive x` iff `x.PosDef`

### PR DESCRIPTION
**Pull request by themathqueen**
---

- [x] depends on: #29896 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean [hunk 1]
```diff
@@ -689,6 +689,12 @@ omit [T2Space A] [IsTopologicalRing A] in
 lemma _root_.IsStrictlyPositive.rpow {a : A} {y : ℝ} (ha : IsStrictlyPositive a) :
     IsStrictlyPositive (a ^ y) := by grind
 
+omit [T2Space A] [IsTopologicalRing A] in
+theorem _root_.IsStrictlyPositive.commute_iff {a b : A} (ha : IsStrictlyPositive a)
+    (hb : IsStrictlyPositive b) : Commute a b ↔ IsStrictlyPositive (a * b) := by
+  rw [commute_iff_mul_nonneg ha.nonneg hb.nonneg]
+  exact ⟨fun h => ha.isUnit.mul hb.isUnit |>.isStrictlyPositive h, fun h => h.nonneg⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean]: This feels like it should be possible to move it somewhere else, maybe even out of this file?

Perhaps this is here as a vestige from before `commute_iff_mul_nonneg` moved.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Basic.lean]: Yeah, moved it to where `commute_iff_mul_nonneg` lives now.
